US04612314
A twofold stoichiometric excess of 3% hydrogen chloride in methanol is added to a solution of 1.0 g. of 9-(1,3-di-n-octanoyloxy-2-propoxymethyl)guanine in 20 ml methanol. Diethyl ether is added until precipitation is complete. The product is filtered, washed with ether, air dried and recrystallized to give 9-(1,3-di-n-octanoyloxy-2-propoxymethyl)guanine hydrochloride.

reactant | hydrogen chloride | Cl | ClH
reactant | 9-(1,3-di-n-octanoyloxy-2-propoxymethyl)guanine | C(CCCCCCC)(=O)OCC(COC(CCCCCCC)=O)OCN1C=2N=C(NC(C2N=C1)=O)N | C25H41N5O6
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 9-(1,3-di-n-octanoyloxy-2-propoxymethyl)guanine hydrochloride | Cl.C(CCCCCCC)(=O)OCC(COC(CCCCCCC)=O)OCN1C=2N=C(NC(C2N=C1)=O)N | InChI=1S/C25H41N5O6.ClH/c1-3-5-7-9-11-13-20(31)34-15-19(16-35-21(32)14-12-10-8-6-4-2)36-18-30-17-27-22-23(30)28-25(26)29-24(22)33;/h17,19H,3-16,18H2,1-2H3,(H3,26,28,29,33);1H
